US07964607B2
6-[(3S,4S)-1-(2,4-difluorobenzyl)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting sodium cyanoborohydride and 2,4-difluorobenzaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 8.01 (s, 1H), 7.40-7.38 (m, 2H), 6.90-6.79 (m, 2H), 4.81-4.77 (m, 2H), 4.14-4.08 (m, 2H), 3.88 (m, 2H), 3.62-3.54 (m, 2H), 3.32 (t, J=8.7 Hz, 1H), 3.02 (d, J=9.5 Hz, 1H), 2.86-2.83 (m, 1H), 2.65 (m, 1H), 2.43-2.20 (m, 3H), 2.00-1.83 (m, 2H), 1.21 (d, J=6.6 Hz, 3H). MS: (M+H m/z 430.2).

reactant | 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=NC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C21H27N7O2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | 2,4-difluorobenzaldehyde | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
product | 6-[(3S,4S)-1-(2,4-difluorobenzyl)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | FC1=C(CN2C[C@H]([C@@H](C2)C)C=2NC(C3=C(N2)N(N=C3)C3CCOCC3)=O)C=CC(=C1)F | C22H25F2N5O2
